US05773428
To neat ethyl isobutylmalonate (25 g, 0,13 mol) at 0° was slowly added ice cold diethylamine (15.1 mL, 0.15 mol). After stirring for 15 min, formalin (11,1 mL 37% aqueous formaldehyde) was added dropwise. The mixture was allowed to stir at 25° for 3 days. The reaction mixture was then treated with a solution of 20 g of K2CO3 in 40 mL of water and extracted with ether (2×100 mL). The ether extracts were combined, washed with brine, dried over MgSO4 and concentrated under reduced pressure at 20°. The crude product, ethyl 4-methyl-2-methylenepentanoate containing some ether, was dissolved in absolute ethanol (250 mL) and treated with acetonitrile (250 mL), 1M LiOH (9.7 g in 250 mL of water, 0.23 mol). After stirring overnight, the organic solvents were evaporated under reduced pressure and the aqueous residue was extracted with ethyl acetate (2×150 mL). The combined extracts were washed with brine, dried over MgSO4 and concentrated under reduced pressure to afford 10.5 g of 4-methyl-2-methylenepentanoic acid as a colorless oil.

reactant | ethyl isobutylmalonate | 0,13 mol, 25 g | C(C(C)C)C(C(=O)OCC)C(=O)[O-]
reactant | formalin | 11,1 mL | C=O | CH2O
reactant | K2CO3 | 20 g | C(=O)([O-])[O-].[K+].[K+]
reactant | LiOH | 0.23 mol, 1M, 250 mL, 9.7 g | [Li+].[OH-]
solvent | water | 40 mL | O | H2O
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 4-methyl-2-methylenepentanoic acid | 10.5 g | CC(CC(C(=O)O)=C)C | C7H12O2
